US20010044428A1
N3-[4-(3-Fluorobenzyloxy)benzyl]pyridine-2,3-diamine
A mixture of N3-[4-(3-fluorobenzyloxy)benzylidene]pyridine-2,3-diamine (0.4 g, 1.24 mmol), and sodium borohydride (0.48 g, 12.4 mmol) in ethanol was refluxed overnight. The solution was cooled to room temperature, then partitioned between ethyl acetate and water. The organic layer was dried over sodium sulfate, filtered, and evaporated under reduced pressure to give a yellow oil. The oil was purified by column chromatography to give 287 mg (72%) of the final product as a yellow solid, mp 91-93° C. 1H NMR (CDCl3): δ 7.61 (d, J=5.1 Hz, 1H), 7.38-7.26 (m, 1H), 7.30 (d, J=8.4 Hz, 2H), 7.20-7.14 (m, 2H), 7.04-6.93 (m, 3H), 6.82 (d, J=7.8 Hz, 1H), 6.68 (dd, J=5.1, 7.2 Hz, 1H), 5.06 (s, 2H), 4.22 (d, J=4.8 Hz, 2H), 4.20 (bs, 2H), 3.49 (bs, 1H).

reactant | N3-[4-(3-fluorobenzyloxy)benzylidene]pyridine-2,3-diamine | 1.24 mmol, 0.4 g | FC=1C=C(COC2=CC=C(C=NC=3C(=NC=CC3)N)C=C2)C=CC1 | C19H16FN3O
reactant | sodium borohydride | 12.4 mmol, 0.48 g | [BH4-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | N3-[4-(3-Fluorobenzyloxy)benzyl]pyridine-2,3-diamine | 287 mg, 72% | FC=1C=C(COC2=CC=C(CNC=3C(=NC=CC3)N)C=C2)C=CC1 | C19H18FN3O
